US07696215B2
4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzoic acid (0.21 g) isopropyliodide (0.073 ml), and potassium carbonate (0.318 g) were stirred in dimethylacetamide (2 ml) for 18 hours at room temperature. Additional isopropyliodide (0.073 ml) was added and stirring continued for a further 24 hours. To the reaction mixture was added MeOH (2 ml), water (0.5 ml) and 2N NaOH (0.58 ml) and the reaction mixture was heated at 50° C. for 18 hours. The reaction mixture was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give a brown oil which solidified on standing for 18 hours in vacuo to give 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid (297 mg); NMR Spectrum: (DMSOd6) 0.99 (m, 6H), 1.80 (m, 1H), 2.13 (s, 3H), 2.33 (m, 2H), 2.78 (m, 4H), 5.03 (m, 1H), 7.46 (m, 3H), 7.70 (d, 1H), 7.87 (s, 1H), 7.96 (d, 1H), 8.16 (s, 1H); Mass Spectrum: M+H+ 408.

reactant | 4-methyl-3-[4-oxo-6-[(3S)-pyrrolidin-3-yloxy]quinazolin-3(4H)-yl]benzoic acid | 0.073 ml, 0.21 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)O[C@@H]1CNCC1 | C20H19N3O4
reactant | potassium carbonate | 0.318 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyliodide | 0.073 ml | C(C)(C)I | C3H7I
reactant | NaOH | 2N, 0.58 ml | [OH-].[Na+]
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 0.5 ml | O | H2O
solvent | MeOH | 2 ml | CO | CH4O
product | 3-[6-{[(3S)-1-isopropylpyrrolidin-3-yl]oxy}-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | 297 mg | C(C)(C)N1C[C@H](CC1)OC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C23H25N3O4
